US04032562
octaethyleneglycol 3-(3',5'-di-t-butyl-4'-hydroxyphenyl)propionate
In a similar fashion, nonobutyleneglycol (3-methyl-5-t-butyl-4-hydroxyphenyl)acetate can be prepared by substituting an equivalent amount of nonobutyleneglycol for octaethyleneglycol and substituting an equivalent amount of methyl (3-methyl-5-t-butyl-4-hydroxyphenyl)acetate for methyl 3-(3',5'-di-t-butyl-4'-hydroxyphenyl)propionate in the above procedure.

reactant | (3-methyl-5-t-butyl-4-hydroxyphenyl)acetate | CC=1C=C(C=C(C1O)C(C)(C)C)CC(=O)[O-]
reactant | octaethyleneglycol | C(COCCOCCOCCOCCOCCOCCOCCO)O | C16H34O9
reactant | methyl (3-methyl-5-t-butyl-4-hydroxyphenyl)acetate | CC=1C=C(C=C(C1O)C(C)(C)C)CC(=O)OC | C14H20O3
reactant | methyl 3-(3',5'-di-t-butyl-4'-hydroxyphenyl)propionate | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(=O)OC | C18H28O3
product | octaethyleneglycol 3-(3',5'-di-t-butyl-4'-hydroxyphenyl)propionate | C(COCCOCCOCCOCCOCCOCCOCCO)O.C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(=O)[O-] | InChI=1S/C17H26O3.C16H34O9/c1-16(2,3)12-9-11(7-8-14(18)19)10-13(15(12)20)17(4,5)6;17-1-3-19-5-7-21-9-11-23-13-15-25-16-14-24-12-10-22-8-6-20-4-2-18/h9-10,20H,7-8H2,1-6H3,(H,18,19);17-18H,1-16H2/p-1
